US08058299B2
2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide (50.7 mg, 0.122 mmol), (1H-tetrazol-5-yl)-acetic acid (15.6 mg, 0.122 mmol), triethylamine (51 uL, 0.366 mmol) and BOP (54 mg, 0.128 mmol) in 1 mL DMF were reacted as above to give a clear oil. The crude product was crystallized from methanol/acetonitrile to yield 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {4-[1-(2-1H-tetrazol-5-yl-acetyl)-piperidin-4-yl]-phenyl}-amide as off-white crystals (11 mg, 17%). ES-MS calcd for C25H22F3N7O3 (m/e) 525.49, obsd 526 (M+H).

reactant | 2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide | 0.122 mmol, 50.7 mg | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C22H20F3N3O2
reactant | (1H-tetrazol-5-yl)-acetic acid | 0.122 mmol, 15.6 mg | N1N=NN=C1CC(=O)O | C3H4N4O2
reactant | triethylamine | 0.366 mmol, 51 uL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.128 mmol, 54 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {4-[1-(2-1H-tetrazol-5-yl-acetyl)-piperidin-4-yl]-phenyl}-amide | 11 mg, 17% | N1N=NN=C1CC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C25H22F3N7O3
